### PR TITLE
cvg lemmas for fun

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

Lemmas about limits of real-valued/extended read-valued functions
needed to develop the theory of lim inf/sup (hence the emphasis on `at_right` versions).
The theory of lim inf/sup is a forthcoming PR and is itself a prerequisite for the FTC.
The proofs for extended real-valued functions use the proofs for real-valued functions
but are still longish because of corner cases.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

##### Compatibility with MathComp 2.0

- [x] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: theories/realfun.v [hunk 1]
```diff
@@ -28,6 +33,366 @@ Local Open Scope ring_scope.
...
+
+(* NB: see cvg_addnl in sequences.v *)
+Lemma cvg_addrl (M : R) : M + r @[r --> +oo] --> +oo.
+Proof.
+move=> P [r [rreal rP]]; exists (r - M); split.
+  by rewrite realB// num_real.
+by move=> m; rewrite ltr_subl_addl => /rP.
+Qed.
+
+(* NB: see cvg_addnr in sequences.v *)
```
Comment (proux01) [inline theories/realfun.v:58]:
```suggestion
(* NB: see cvg_addnr in topology.v *)
```

File: theories/realfun.v [hunk 2]
```diff
@@ -28,6 +33,366 @@ Local Open Scope ring_scope.
...
+    by rewrite f_fin_num// axA// am (ltW mn0).
+  rewrite negb_and -!leNgt => /orP[ma|xm].
+    rewrite fineK//; first by exists x => //=; rewrite in_itv/= Ax.
+    by rewrite f_fin_num ?inE.
+  by rewrite fineK// ?f_fin_num ?inE//; exists x => //=; rewrite in_itv/= andbT.
+Unshelve. all: by end_near. Qed.
+
+Lemma nondecreasing_at_right_is_cvge (f : R -> \bar R) a :
+    {in `]a, +oo[, {homo f : n m / (n <= m)%R >-> n <= m}} ->
+  cvg (f x @[x --> a ^'+]).
```
Comment (proux01) [inline theories/realfun.v:369]: Maybe
```suggestion
Lemma nondecreasing_at_right_is_cvge (f : R -> \bar R) a :
    {in `]a, +oo[, nondecreasing_fun f} ->
  cvg (f x @[x --> a ^'+]).
```

File: theories/realfun.v [hunk 3]
```diff
@@ -28,6 +33,366 @@ Local Open Scope ring_scope.
...
+Proof. by move=> ndf; apply: cvgP; exact: nondecreasing_at_right_cvge. Qed.
+
+Lemma nonincreasing_at_right_cvge (f : R -> \bar R) a :
+    {in `]a, +oo[, {homo f : n m / (n <= m)%R >-> m <= n}} ->
+  f x @[x --> a ^'+] --> ereal_sup [set f x | x in `]a, +oo[].
```
Comment (proux01) [inline theories/realfun.v:374]: Maybe
```suggestion
Lemma nonincreasing_at_right_cvge (f : R -> \bar R) a :
    {in `]a, +oo[, nonincreasing_fun f} ->
  f x @[x --> a ^'+] --> ereal_sup (f @` `]a, +oo[).
```

File: theories/realfun.v [hunk 4]
```diff
@@ -28,6 +33,366 @@ Local Open Scope ring_scope.
...
+under eq_fun do rewrite oppeK.
+set lhs := (X in _ --> X -> _); set rhs := (X in _ -> _ --> X).
+suff : lhs = rhs by move=> ->.
+rewrite {}/rhs {}/lhs; rewrite /ereal_inf oppeK; congr ereal_sup.
+by rewrite image_comp/=; apply: eq_imagel => x _ /=; rewrite oppeK.
+Qed.
+
+Lemma nonincreasing_at_right_is_cvge (f : R -> \bar R) a :
+    {in `]a, +oo[, {homo f : n m / (n <= m)%R >-> m <= n}} ->
+  cvg (f x @[x --> a ^'+]).
```
Comment (proux01) [inline theories/realfun.v:389]: Maybe
```suggestion
Lemma nonincreasing_at_right_is_cvge (f : R -> \bar R) a :
    {in `]a, +oo[, nonincreasing_fun f} ->
  cvg (f x @[x --> a ^'+]).
```

**Comment by affeldt-aist** [comment]
TODO: lemmes giving equivalents defs  {homo f : x y / x < y >-> x <= y} for nondecreasing or {homo f : x y / x < y >-> x < y} for increasing... @proux01

**Comment by proux01** [comment]
Applied the few suggested changes, will merge once CI is green.

**Comment by affeldt-aist** [comment]
> Applied the few suggested changes, will merge once CI is green.

Thank you! I couldn't do it today, but I have more of the same vein to come soon so I'll be able to look at the proofs again as I promised.
